US08609644B2
17,17-Bis(ethylendioxy)-5α-hydroxy-6-(E)-hydroxyiminoandrostane was prepared in 85% yield from 3,3:17,17-bis(ethylendioxy)-5α-hydroxyandrostan-6-one by the procedure described above for the preparation of 6-(E)-hydroxyiminoandrostane-3,17-dione (II-at, Prepn. 20). The crude was purified by flash chromatography (SiO2, cyclohexane/acetone/CH2Cl2 70/15/15). 1H-NMR (300 MHz, DMSO-d6, ppm from TMS: δ 10.45 (s, 1H), 4.33 (s, 1H), 3.96-3.69 (m, 8H), 2.96 (dd, 1H), 2.02-1.08 (m, 18H), 0.74 (s, 3H), 0.71 (s, 3H).

reactant | 17,17-bis(ethylendioxy)-5α-hydroxyandrostan-6-one | C1OC23[C@]4(C)[C@@H](CC2(OCCO3)OC1)[C@@H]1CC([C@]3(CCCC[C@]3(C)[C@H]1CC4)O)=O | C23H34O6
reactant | 6-(E)-hydroxyiminoandrostane-3,17-dione | O\N=C\1/C[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(CCC(CC12)=O)C)=O | C19H27NO3
product | 17,17-Bis(ethylendioxy)-5α-hydroxy-6-(E)-hydroxyiminoandrostane | 85% yield | C1OC23[C@]4(C)[C@@H](CC2(OCCO3)OC1)[C@@H]1C\C(\[C@]3(CCCC[C@]3(C)[C@H]1CC4)O)=N/O | C23H35NO6
